US03962249
1-[3-(p-Ethoxyphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of 1-[3-(p-ethoxyphenyl)propyl]piperazine [b.p. 162° - 165°C (4 mmHg), dihydrochloride, m.p. 232° - 239°C], 2-furoyl chloride and benzene.

reactant | 1-[3-(p-ethoxyphenyl)propyl]piperazine | C(C)OC1=CC=C(C=C1)CCCN1CCNCC1 | C15H24N2O
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[3-(p-Ethoxyphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride | Cl.C(C)OC1=CC=C(C=C1)CCCN1CCN(CC1)C(=O)C=1OC=CC1 | InChI=1S/C20H26N2O3.ClH/c1-2-24-18-9-7-17(8-10-18)5-3-11-21-12-14-22(15-13-21)20(23)19-6-4-16-25-19;/h4,6-10,16H,2-3,5,11-15H2,1H3;1H
